US04874861
To 5 ml of dry N,N-dimethylformamide was added 0.24 g of 55% sodium hydride. The resulting mixture was kept at 0° C. and added dropwise with a solution of 0.91 g of p-propoxybenzyl mercaptan dissolved in 5 ml of N,N-dimethylformamide. After ten minutes passed, the resulting mixture was added dropwise with a solution of 1.0 g of 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone dissolved in 5 ml of N,N-dimethylformamide. After completion of dropwise addition, the resulting mixture was reacted at room temperature for four hours. The resulting solution was poured into 50 ml of water and extracted twice with 50 ml of diethyl ether. The resulting organic layer was dried over anhydrous sodium sulfate, and freed of solvent by distillation under reduced pressure to give 1.7 g of crude product. The crude product was fractionated on thin layer chromatography to obtain 0.8 g of 2-t-butyl-4-methyl-5-(p-propoxybenzylthio)-3(2H)-pyridazinone.

reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | p-propoxybenzyl mercaptan | 0.91 g | C(CC)OC1=CC=C(CS)C=C1 | C10H14OS
reactant | 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-methyl-5-(p-propoxybenzylthio)-3(2H)-pyridazinone | 0.8 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SCC1=CC=C(C=C1)OCCC | C19H26N2O2S
